US05543531
a. 2,4-Dimethyl-2-methoxy-tetrahydrothiophen-3-one
To a solution of 411 g (3.16 mol) of 2,4-dimethyl-tetrahydro-thiophen-3-one in 3000 ml of methanol are added dropwise, at an internal temperature of 63°-65° and over a period of one hour, 256.4 g (2.70 mol) of 35.8% hydrogen peroxide.

reactant | 2,4-dimethyl-tetrahydro-thiophen-3-one | 3.16 mol, 411 g | CC1SCC(C1=O)C | C6H10OS
reactant | hydrogen peroxide | 2.70 mol, 256.4 g | OO | H2O2
reactant | methanol | 3000 ml | CO | CH4O
product | 2,4-Dimethyl-2-methoxy-tetrahydrothiophen-3-one | CC1(SCC(C1=O)C)OC | C7H12O2S
